US07105519B2
p-Tolylsulfanyl-acetic acid ethyl ester (Referred to as 595-29)
A solution of 4-methylbenzenethiol (5 g, 40.25) in dry THF was added dropwise to a suspension of NaH (60% in mineral oil, 1.98 g, 48.30) in THF at room temperature and stirred for 30 min. under N2 atmosphere. Ethylbromoacetate (4.9 mL, 44.27) was added slowly to this solution and further stirred at room temperature for 3 h. The solvent was removed under vacuum. The residue was dissolved in dil. HCl and extracted by ethylacetate. The combined organic phase was washed successively with saturated NaHCO3 solution, water and brine then dried over Na2SO4. Evaporation of organic phase yielded 8.46 g (99%) colorless oil. 1H NMR (CDCl3): δ 1.22 (t, J=7.2 Hz, 3H), 2.32 (s, 3H), 3.57 (s, 2H), 4.14 (q, J=7.2 Hz, 2H), 7.11 (d, J=8.0 Hz, 2H), 7.33 (d, J=8.0 Hz, 2H). EIMS m/z 210 (M+1), 233 (M+23).

reactant | 4-methylbenzenethiol | 5 g | CC1=CC=C(C=C1)S | C7H8S
reactant | NaH | 1.98 g | [H-].[Na+]
reactant | Ethylbromoacetate | 4.9 mL | C(C)OC(CBr)=O | C4H7BrO2
solvent | THF | C1CCOC1 | C4H8O
product | p-Tolylsulfanyl-acetic acid ethyl ester | 8.46 g, 99% | C(C)OC(CSC1=CC=C(C=C1)C)=O | C11H14O2S
